US06441017B1
Step F: (R)-2-{5-[1-(4-Cyano-3-fluorophenyl)-1-hydroxyethyl]imidazol-1-yl}-N-(1-(7-hydroxynaphthalen-1-yl)-2-oxopyrrolidin-3-yl)acetamide
A solution of {5-[1-(4-cyano-3-fluorophenyl)-1-hydroxyethyl]imidazol-1-yl}acetic acid, lithium salt, as described above in Step E, (40 mg, 0.136 mmol), (R)-3-amino-1-[7-hydroxynaphthalen-1-yl]pyrrolidine hydrochloride, as described in Example 29, Step J, (42 mg, 0.151 mmol), 1-hydroxybenzotriazole hydrate (23 mg, 0.17 mmol), EDC (33 mg, 0.17 mmol), and N,N-diisopropylethylamine (40 mg, 0.31 mmol) in dry, degassed DMF (1 mL) was stirred at ambient temperature for 18 hours. The solvent was removed under reduced pressure and the residue was partitioned between saturated aqueous NaHCO3 (1 mL) and CHCl3 (3 mL). The aqueous layer was extracted further with CHCl3 (2×2 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude product was purified by preparative thin layer chromatography, eluting with a gradient of CH2Cl2—6% MeOH—0.6% NH4OH to give the titled product.

reactant | {5-[1-(4-cyano-3-fluorophenyl)-1-hydroxyethyl]imidazol-1-yl}acetic acid | C(#N)C1=C(C=C(C=C1)C(C)(O)C1=CN=CN1CC(=O)O)F | C14H12FN3O3
reactant | lithium | [Li] | Li
reactant | (R)-3-amino-1-[7-hydroxynaphthalen-1-yl]pyrrolidine hydrochloride | 0.136 mmol, 40 mg | Cl.N[C@H]1CN(CC1)C1=CC=CC2=CC=C(C=C12)O
reactant | 1-hydroxybenzotriazole hydrate | 0.151 mmol, 42 mg | O.ON1N=NC2=C1C=CC=C2
reactant | EDC | 0.17 mmol, 33 mg
reactant | N,N-diisopropylethylamine | 0.31 mmol, 40 mg | C(C)(C)N(C(C)C)CC | C8H19N
product | (R)-2-{5-[1-(4-Cyano-3-fluorophenyl)-1-hydroxyethyl]imidazol-1-yl}-N-(1-(7-hydroxynaphthalen-1-yl)-2-oxopyrrolidin-3-yl)acetamide | C(#N)C1=C(C=C(C=C1)C(C)(O)C1=CN=CN1CC(=O)N[C@H]1C(N(CC1)C1=CC=CC2=CC=C(C=C12)O)=O)F | C28H24FN5O4
